US05047535
N-(1-Oxohexadecyl)-12-aminododecanoic acid
A sample of 5.13 g (20.0 mmol) hexadecanoic acid, 2.30 g (20.0 mmol) N-hydroxysuccinimide and 4.53 g (22.0 mmol) dicyclohexylcarbodiimide (DOC) was dissolved in 20 ml dry tetrahydrofurane or methylenechloride. The temperature of the reaction mixture was kept at 20° C. and the mixture stirred overnight under an atmosphere of nitrogen. The precipitate was removed by filtration and the filtrate concentrated by rotoevaporation to dryness to yield 6.0 g (85%) of the succinimidylester. 180 mg (0.509 mmol) of this active ester and 110 mg (0.510 mmol) 12-aminododecanoic acid were suspended in 3 ml dry dimethoxyethane or dioxane and stirred at 50°-60° C. for ca. 4 h. The reaction mixture was filtered hot and diluted with ice water. The precipitate was removed by filtration and purified by crystallization from methanol to yield 165 mg (72%) of the product as colourless cystals, m.p. 119°-121° C.

reactant | 12-aminododecanoic acid | 0.510 mmol, 110 mg | NCCCCCCCCCCCC(=O)O | C12H25NO2
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | dimethoxyethane | 3 ml | C(OC)COC | C4H10O2
product | N-(1-Oxohexadecyl)-12-aminododecanoic acid | 165 mg, 72% | O=C(CCCCCCCCCCCCCCC)NCCCCCCCCCCCC(=O)O | C28H55NO3
